US07858796B2
(7) 5-phenyl-1H-indole-7-carboxylic acid
To a solution of 5-bromo-1H-indole-7-carboxylic acid (10 g, 41.8 mmol) in dioxane (150 mL) and water (50 mL) was added phenylboronic acid (19.5 g, 159.9 mmol), cesium carbonate (26.0 g, 79.8 mmol), 1,3-Bis(2,4,6-trimethylphenyl) imidazolium chloride (2.8 g, 8.2 mmol), and palladiumacetate (0.9 g, 4.01 mmol). The reaction mixture was stirred at ambient temperature for 15 min, and then was refluxed at 80° C. for 15 hr. The organic solvent was removed under reduced pressure and the water layer was adjusted to pH=1-2 with 6 M hydrochloric acid before ethyl acetate (350 mL) was added into it. The organic layer washed with water (100 mL×3), dried and concentrated at 45° C. to a thick oil (approximately 40 mL solvent left), cooled to −20° C., and filtered. The solid was washed with cold ethyl acetate (10 mL×3), and collected. The filtrate was concentrated to a thick oil at 45° C., then was cooled to −20° C., and off-white solid was obtained. The suspension was filtered and washed with cold ethyl acetate (5 mL×3). The filtrate was discard after 3 iterations of the above procedure.

reactant | 5-bromo-1H-indole-7-carboxylic acid | 41.8 mmol, 10 g | BrC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6BrNO2
reactant | phenylboronic acid | 159.9 mmol, 19.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 79.8 mmol, 26.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-Bis(2,4,6-trimethylphenyl) imidazolium chloride | 8.2 mmol, 2.8 g | [Cl-].CC1=C(C(=CC(=C1)C)C)[N+]1=CN(C=C1)C1=C(C=C(C=C1C)C)C
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | palladiumacetate | 4.01 mmol, 0.9 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-phenyl-1H-indole-7-carboxylic acid | C1(=CC=CC=C1)C=1C=C2C=CNC2=C(C1)C(=O)O | C15H11NO2
